US07902356B2
2-(4-Chloro-phenyl)-5-(1-triisopropylsilanyl-1H-indol-5-yl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one
Dissolve 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid (1-triisopropylsilanyl-1H-indol-5-yl)-amide in CH2Cl2 (25 mL) and add Et3N (0.33 mL, 2.36 mmol) and methanesulfonyl chloride (0.16 mmol, 2.13 mmol). Stir the mixture at room temperature for 2 h, then add additional Et3N (0.33 mL, 2.36 mmol) and methanesulfonyl chloride (0.16 mmol, 2.13 mmol). Stir the mixture for an additional 2 h, dilute with EtOAc (50 mL), then wash with water (20 mL) and brine (20 mL). Dry, filter and concentrate the organic solution then and purify the crude material by flash chromatography, using a linear gradient of 100% hexanes to 50% EtOAc/hexanes as eluent, to give the title compound (1.15 g, 100%). MS (ES+) 536.1 (M+1)+. 1H NMR (400 MHz, CDCl3) δ: 7.93 (d, 2H, J=8.3 Hz), 7.56 (d, 1H, J=1.8 Hz), 7.50 (d, 1H, J=8.8 Hz), 7.44 (d, 2H, J=8.3 Hz), 7.27 (d, 1H, J=3.1 Hz), 7.14-7.10 (m, 1H), 6.61 (d, 1H, J=2.6 Hz), 4.16 (t, 2H, J=6.8 Hz), 3.29 (t, 2H, J=7.0 Hz), 1.73-1.65 (m, 3H), 1.14 (d, 18H, J=7.5 Hz).

reactant | 2-(4-chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid (1-triisopropylsilanyl-1H-indol-5-yl)-amide | C(C)(C)[Si](N1C=CC2=CC(=CC=C12)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CCO)(C(C)C)C(C)C | C29H36ClN3O2SSi
reactant | Et3N | 2.36 mmol, 0.33 mL | CCN(CC)CC | C6H15N
reactant | Et3N | 2.36 mmol, 0.33 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | methanesulfonyl chloride | 0.16 mmol | CS(=O)(=O)Cl | CH3ClO2S
catalyst | methanesulfonyl chloride | 0.16 mmol | CS(=O)(=O)Cl | CH3ClO2S
product | 2-(4-Chloro-phenyl)-5-(1-triisopropylsilanyl-1H-indol-5-yl)-6,7-dihydro-5H-thiazolo[5,4-c]pyridin-4-one | 1.15 g, 100% | ClC1=CC=C(C=C1)C=1SC=2C(N(CCC2N1)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)=O | C29H34ClN3OSSi
